data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(C)c1OC.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1OC"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1OC", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1OC.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C)c2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C)c2OC)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(C)c1OC"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(C)c1OC", "products": "COc1cc2c(c(C)c1OC)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(C)c1OC)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(C)c1OC)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(C)c1OC)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(C)c1OC)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(C)c1OC)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(C)c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(F)c(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "Cc1ccc(F)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "Cc1ccc(F)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "Cc1ccc(F)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1ccc(F)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1ccc(F)c2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)C)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)C)c([Si](C)(C)C)c4Cl)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cc(F)ccc1C(=O)C1C2CCC1C2", "products": "Cc1cc(F)ccc1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1cc(F)ccc1[C]([O])C1C2CCC1C2", "products": "Cc1cc(F)ccc1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1cc(F)ccc1C([O])=CC1C[CH]CC1", "products": "Cc1cc(F)ccc1C(O)=CC1C=CCC1"}, {"reactants": "Cc1cc(F)ccc1C(O)=CC1C=CCC1", "products": "Cc1cc(F)ccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(C)cc(OC)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)cc(OC)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)cc(OC)c1)C(C)C", "products": "COc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "COc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "COc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "COc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "COc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "COc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12COC(Cl)(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12COC(Cl)(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "COC12COC(Cl)(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2.[O-]C", "products": "COC12COC(Cl)(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "COC12COC(Cl)(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2", "products": "COC12COC(Cl)(O1)C1C(=O)C12"}, {"reactants": "COC12COC(Cl)(O1)C1C(=O)C12.[O-]C", "products": "COC12COC(Cl)(O1)C1C2C1([O-])OC"}, {"reactants": "COC12COC(Cl)(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(OC)COC1(Cl)O2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1ccc(F)c(Cl)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1ccc(F)c(Cl)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1ccc(F)c(Cl)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(F)c(Cl)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(F)c(Cl)c21", "products": "CN1C(=O)C2(C=CCC2)c2ccc(F)c(Cl)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
